US07547699B2
To a solution of 0.70 g (4R,9aR)-6-[2-(tert-butyl-dimethyl-silanyloxy)-1-hydroxy-ethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 10 ml dichloromethane was added at room temperature 0.794 g tetrabromo methane and 0.628 g triphenylphosphine and the mixture was stirred at this temperature for 30 min. The reaction mixture was purified by chromatography on silica gel with heptane:ethyl acetate=2:1. The product (0.66 g) was taken up in 10 ml tetrahydrofuran. To the resulting solution was added a solution of 0.218 g potassium fluoride in 2 ml water, 0.028 g palladium acetate and 0.50 ml polymethylhydroxysilane and the mixture was stirred at room temperature for 3 h. The reaction mixture was partitioned between water and ethyl acetate, the phases were separated, the organic phase was washed with water and brine dried over sodium sulfate and evaporated. The residue was purified by chromatography on silica gel with heptane:ethyl acetate=2:1 to yield 0.329 g (4R,9aR)-6-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester as slightly yellow oil (MS: 448.5 (M+H+))

reactant | (4R,9aR)-6-[2-(tert-butyl-dimethyl-silanyloxy)-1-hydroxy-ethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.70 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)C(CO[Si](C)(C)C(C)(C)C)O | C24H41N3O4Si
reactant | tetrabromo methane | 0.794 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.628 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (4R,9aR)-6-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.329 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)CCO[Si](C)(C)C(C)(C)C | C24H41N3O3Si
